US03947456
The free base isolated from 1.55 g. of rac.- 4-(4-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxyisoquinoline hydrochloride is shaken with 1.1 ml. of a 35% formaldehyde solution and the mixture is allowed to stand at room temperature for 2 hours. It is hydrogenated over 1 g. of Raney nickel, filtered from the catalyst, the filtrate is evaporated and the residue is crystallized with ethanolic hydrogen chloride, methanol and ether. Recrystallization from methanol-ether gives rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride, m.p. 244°-146°.

reactant | rac.- 4-(4-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxyisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1CNCC2=CC(=CC=C12)OC
reactant | formaldehyde | C=O | CH2O
product | rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1CN(CC2=CC(=CC=C12)OC)C | InChI=1S/C17H18ClNO.ClH/c1-19-10-13-9-15(20-2)7-8-16(13)17(11-19)12-3-5-14(18)6-4-12;/h3-9,17H,10-11H2,1-2H3;1H
